US08563505B2
HATU (139 mg, 0.365 mmol) was added to a solution of (S)-2-((hex-5-enyloxy)carbonylamino)-3,3-dimethylbutanoic acid (128 mg, 0.498 mmol), DIEA (0.174 mL, 0.996 mmol) and (2S,4R)-methyl 4-methoxy-4-(2′-vinylbiphenyl-4-yl)pyrrolidine-2-carboxylate (112 mg, 0.332 mmol) in DCM (5 mL). The reaction was stirred at r.t. overnight. The reaction was evaporated and purified on the Biotage (10-40% EtOAc in hexanes) to give (2S,4R)-methyl 1-((S)-2-((hex-5-enyloxy)carbonylamino)-3,3-dimethylbutanoyl)-4-methoxy-4-(2′-vinylbiphenyl-4-yl)pyrrolidine-2-carboxylate (151 mg, 79% yield) as a clear oil. LCMS: rt=2.05 min. [M+Na]30 =599; Phenomenex-Luna C-18 (5μ) (3.0×50 mm); Solvent A=10% acetonitrile—90% water—0.1% TFA, Solvent B=90% acetonitrile—10% water—0.1% TFA; gradient 0% to 100% solvent B over 2 min. and then hold for 1 min.; 4 mL/min; inj. vol.=5 uL; wavelength=220.

reactant | HATU | 0.365 mmol, 139 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | (S)-2-((hex-5-enyloxy)carbonylamino)-3,3-dimethylbutanoic acid | 0.498 mmol, 128 mg | C(CCCC=C)OC(=O)N[C@H](C(=O)O)C(C)(C)C | C13H23NO4
reactant | DIEA | 0.996 mmol, 0.174 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | (2S,4R)-methyl 4-methoxy-4-(2′-vinylbiphenyl-4-yl)pyrrolidine-2-carboxylate | 0.332 mmol, 112 mg | CO[C@]1(C[C@H](NC1)C(=O)OC)C1=CC=C(C=C1)C1=C(C=CC=C1)C=C | C21H23NO3
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | (2S,4R)-methyl 1-((S)-2-((hex-5-enyloxy)carbonylamino)-3,3-dimethylbutanoyl)-4-methoxy-4-(2′-vinylbiphenyl-4-yl)pyrrolidine-2-carboxylate | 151 mg, 79% yield | C(CCCC=C)OC(=O)N[C@H](C(=O)N1[C@@H](C[C@](C1)(C1=CC=C(C=C1)C1=C(C=CC=C1)C=C)OC)C(=O)OC)C(C)(C)C | C34H44N2O6
